US07985753B2
(6-Chloro-pyrazolo[1,5-a]pyrimidin-2-yl)-(1-methyl-5-pyridin-4-yl-3,4-dihydro-1H-isoquinolin-2-yl)-methanone
In close analogy to the procedure described in Example 1, 6-chloro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with 1-Methyl-5-pyridin-4-yl-1,2,3,4-tetrahydro-isoquinoline to provide the title compound in moderate yield.

reactant | 6-chloro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | ClC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4ClN3O2
reactant | 1-Methyl-5-pyridin-4-yl-1,2,3,4-tetrahydro-isoquinoline | CC1NCCC2=C(C=CC=C12)C1=CC=NC=C1 | C15H16N2
product | (6-Chloro-pyrazolo[1,5-a]pyrimidin-2-yl)-(1-methyl-5-pyridin-4-yl-3,4-dihydro-1H-isoquinolin-2-yl)-methanone | ClC=1C=NC=2N(C1)N=C(C2)C(=O)N2C(C1=CC=CC(=C1CC2)C2=CC=NC=C2)C | C22H18ClN5O
